US04948795
Di-tert-butyl dicarbonate (2.4 g) and 10 ml of 1N aqueous sodium hydroxide were added to a mixture of 2.1 g of 2-(3-pyridyl)thiazolidine-4-carboxylic acid, 20 ml of water and 40 ml of dioxane at a temperature not higher than 4° C., and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, 30 ml of water was added, the pH was adjusted to 2 to 3 by addition of 0.5M aqueous citric acid, and the mixture was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure, and the residue was recrystallized from ethyl acetate to give 1 g of N-tert-butoxycarbonyl-2-(3-pyridyl)thiazolidine-4-carboxylic acid. Melting point 167° C.-169° C.

reactant | Di-tert-butyl dicarbonate | 2.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
reactant | 2-(3-pyridyl)thiazolidine-4-carboxylic acid | 2.1 g | N1=CC(=CC=C1)C1SCC(N1)C(=O)O | C9H10N2O2S
reactant | water | 20 ml | O | H2O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | N-tert-butoxycarbonyl-2-(3-pyridyl)thiazolidine-4-carboxylic acid | 1 g | C(C)(C)(C)OC(=O)N1C(SCC1C(=O)O)C=1C=NC=CC1 | C14H18N2O4S
